US07964732B2
Step A11B: (1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)methanol
LiBH4 in THF (2M, 15 ml, 0.03 mole) was added dropwise to a stirred solution of ethyl 1-methyl-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate (3.32 g, 0.015 mole) in THF (40 ml) at room temperature under nitrogen. The solution was then stirred under reflux for 18 hrs. After cooling, the cloudy solution was evaporated at room temperature to give an oil. Water was added (heavy ppt. of white solid) and the mixture chilled and treated cautiously with hydrochloric acid (2M) to pH 2 (no solid remaining, to give an oil). The mixture was neutralised with sodium carbonate and the mixture extracted with diethyl ether (3×20 ml). The organic layer was separated and back-washed with brine (3×30 ml). The organic layer was separated, dried (Na2SO4), filtered and evaporated to give an oil. Yield 3 g. An aliquot (150 mg) was dissolved in dichloromethane and purified using an ISCO Companion (4 g silica col. CH2Cl2 to CH2Cl2:ethyl acetate 9:1). The appropriate fractions were combined and evaporated to give an oil, 72 mg. 1H NMR (400 MHz, CDCl3) δ 7.54 (s, 1H) 4.69, 4.48 (d, 2H) 4.00 (s, 3H) 1.70, 1.68, 1.67 (t, 1H). MS (ESI) m/z 181 (M+H)+. LC-MS m/z 181 (M+H) GC-MS FID 100% Cl+ 181 (M+H)+. TLC CH2Cl2:ethyl acetate 9:1 0.25 UV−ve DNPH+ve.

reactant | LiBH4 | [Li+].[BH4-]
reactant | ethyl 1-methyl-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 0.015 mole, 3.32 g | CN1N=CC(=C1C(F)(F)F)C(=O)OCC | C8H9F3N2O2
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | DNPH | C1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NN | C6H6N4O4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 0.03 mole, 2M, 15 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
solvent | Water | O | H2O
product | (1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | CN1N=CC(=C1C(F)(F)F)CO | C6H7F3N2O
